US07320977B2
tert-Butyl 4-[5-chloro-1-(4-chlorophenyl)-6-oxo-1,6-dihydro-4-pyridazinyl]-1-piperazine carboxylate
By general method 1 from 20.66 g (75 mmol) of 2-(4-chlorophenyl)-4,5-dichloropyridazin-3-one with 25.14 g (135 mmol) of Boc-piperazine.

reactant | 2-(4-chlorophenyl)-4,5-dichloropyridazin-3-one | 75 mmol, 20.66 g | ClC1=CC=C(C=C1)N1N=CC(=C(C1=O)Cl)Cl | C10H5Cl3N2O
reactant | Boc-piperazine | 135 mmol, 25.14 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
product | tert-Butyl 4-[5-chloro-1-(4-chlorophenyl)-6-oxo-1,6-dihydro-4-pyridazinyl]-1-piperazine carboxylate | ClC1=C(C=NN(C1=O)C1=CC=C(C=C1)Cl)N1CCN(CC1)C(=O)OC(C)(C)C | C19H22Cl2N4O3
